US09278944B2
To a solution of N-[1-(5-bromo-6-chloropyridin-3-yl)ethyl]cyclopropylamine (2.47 g) in ethyl acetate (15 mL)-tetrahydrofuran (15 mL)-water (15 mL) were added sodium hydrogen carbonate (3.78 g) and di-tert-butyl dicarbonate (3.94 g), and the mixture was stirred at room temperature for 41 hours. To the reaction solution was added water, and then the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1→1/1) to give tert-butyl [1-(5-bromo-6-chloropyridin-3-yl)ethyl]cyclopropylcarbamate [REx(113-3)] (2.6 g) as a pale yellow oil.

reactant | N-[1-(5-bromo-6-chloropyridin-3-yl)ethyl]cyclopropylamine | 2.47 g | BrC=1C=C(C=NC1Cl)C(C)NC1CC1 | C10H12BrClN2
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | sodium hydrogen carbonate | 3.78 g | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 3.94 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 15 mL | O | H2O
product | tert-butyl [1-(5-bromo-6-chloropyridin-3-yl)ethyl]cyclopropylcarbamate | 2.6 g | BrC=1C=C(C=NC1Cl)C(C)N(C(OC(C)(C)C)=O)C1CC1 | C15H20BrClN2O2
